US09107916B2
C. 2-[5-[[4-chloro-3-[(4-fluorophenyl)methoxy]phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and [4-chloro-3-[(4-fluorophenyl)methoxy]phenyl]methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 5.10 (2H, s), 5.18 (2H, s), 5.68 (1H, d, J=1.6 Hz), 6.97 (1H, dd, J=1.2 Hz, 8.0 Hz), 7.03-7.07 (3H, m), 7.39-7.43 (4H, m), 7.55 (1H, d, J=1.6 Hz), 8.04 (1H, s), 8.67 (1H, d, J=5.2 Hz). [M+H] Calc'd for C23H16ClFN4O2, 435. Found, 435.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | [4-chloro-3-[(4-fluorophenyl)methoxy]phenyl]methanol | ClC1=C(C=C(C=C1)CO)OCC1=CC=C(C=C1)F | C14H12ClFO2
product | 2-[5-[[4-chloro-3-[(4-fluorophenyl)methoxy]phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=C(C=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)OCC1=CC=C(C=C1)F | C23H16ClFN4O2
